US06200989B1
3-(4-benzamidopiperidinyl)-1-chloropropane
A mixture of 4-benzamidopiperidine (3.2 g; preparation I11), triethylamine (5.67 ml) and 1-bromo-3-chloropropane (2.31 ml) in 150 ml of tetrahydrofuran was refluxed overnight, then concentrated to a small volume and treated with 100 ml of chloroform. The solution was washed with 50 ml of aqueous saturated solution of potassium carbonate, dried over sodium sulfate and concentrated to dryness. The residue (6 g) was purified by silica gel chromatography (eluent chloroform/methanol 9:1) to give, after recrystallization from 20 ml of diethyl ether, 1.63 g of the product, m.p. 145-147° C.

reactant | 4-benzamidopiperidine | 3.2 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | triethylamine | 5.67 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-3-chloropropane | 2.31 ml | BrCCCCl | C3H6BrCl
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-(4-benzamidopiperidinyl)-1-chloropropane | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCCl | C15H21ClN2O
